US06559145B2
N-(4-Chlorobenzyl)-1-methyl-6-(4-morpholinylmethyl)-1H-4,1,2-benzothiadiazine-3-carboxamide 4,4-Dioxide [BX.8]
4-Chlorobenzylamine (0.66 mL) and a 0.5 M solution of NaOMe in CH3OH (0.060 mL) is added to a solution of methyl 1-methyl-6-(4-morpholinylmethyl)-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-dioxide (Preparation 41, 0.16 g) in CH3OH (15 mL) at room temperature. The mixture is heated for 12 hours at 70° C. and then the solvent is evaporated. The crude material is triturated with CH3CN and the organic layer is decanted. The remaining solid is chromatographed with MeOH/CH2Cl2 (1-5%) to obtain 0.174 g (83%) of the title compound as a white solid. Physical characteristics: MS (ESI+) m/z 463 (M+H).

reactant | 4-Chlorobenzylamine | 0.66 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | NaOMe | C[O-].[Na+]
reactant | methyl 1-methyl-6-(4-morpholinylmethyl)-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-dioxide | 0.16 g | CN1N=C(S(C2=C1C=CC(=C2)CN2CCOCC2)(=O)=O)C(=O)OC | C15H19N3O5S
solvent | CH3OH | 0.060 mL | CO | CH4O
solvent | CH3OH | 15 mL | CO | CH4O
product | N-(4-Chlorobenzyl)-1-methyl-6-(4-morpholinylmethyl)-1H-4,1,2-benzothiadiazine-3-carboxamide 4,4-Dioxide | 0.174 g, 83% | ClC1=CC=C(CNC(=O)C2=NN(C3=C(S2(=O)=O)C=C(C=C3)CN3CCOCC3)C)C=C1 | C21H23ClN4O4S
